US08426430B2
N4-(3-ethynylphenyl)-7-fluoroquinazoline-4,6-diamine (100 mg, 0.36 mmol) was dissolved into DMF (3 mL) containing pyridine (35 μL, 0.432 mmol). Phenyl chloroformate (46 μL, 0.36 mmol) was dropped into the mixture at room temperature and heated to 70° C. for 1 h to give phenyl 4-(3-ethynylphenylamino)-7-fluoroquinazolin-6-ylcarbamate. The obtained compound was used in the next step directly without purification. Then the amine (0.36 mmol) was added and stirred at 70° C. for 2.5 h. After cooled to room temperature, the reaction mixture was diluted with ethyl acetate and washed with water. The combined organic layers were concentrated and purified with silica column to give Compound 60 (105 mg, 75% yield).

reactant | N4-(3-ethynylphenyl)-7-fluoroquinazoline-4,6-diamine | 0.36 mmol, 100 mg | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)N)F | C16H11FN4
reactant | pyridine | 0.432 mmol, 35 μL | N1=CC=CC=C1 | C5H5N
reactant | Phenyl chloroformate | 0.36 mmol, 46 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | phenyl 4-(3-ethynylphenylamino)-7-fluoroquinazolin-6-ylcarbamate | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)NC(OC1=CC=CC=C1)=O)F | C23H15FN4O2
